Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain/pressure
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ yo M w/ h/o of HTN, tobacco abuse, and obesity
who presented to ___ with diaphoresis, 
pressure,
imbalance, general weakness, and nausea starting this morning at
7:30 am while he was out having his typical coffee and smoking a
cigarette. He is a challenging historian, but states that he
experienced pressure in his chest or maybe his right upper
abdomen.  It was moderate in intensity, not associated with
dyspnea per the patient, but by report, his wife says it was.  
He
thinks he has had this before, about once a month, but it is not
associated with eating or exertion.  This time, he threw up
twice, and his wife urged him to come to the ER.  Regarding
imbalance and weakness, he states, "I felt like I was walking
funny.  I can't describe it." He denies radiation of the
pressure. He denies history of chest pain or shortness of breath
at rest or with exertion. He denies prior history of heart 
attack
or other structural heart disease. He did have a presentation to
___ in ___ for symptoms that were somewhat
different but had a nuclear stress test and echo that he reports
were normal. He does have hypertension, but he has not been
taking any medications as of late for this and has not seen his
primary care doctor in over a year.  

 At ___, labs were significant for troponin I 0.7, 
normal
LFTs, normal CBC, BMP. CTAP did not show overt liver or
gallbladder pathology and did show hiatal hernia. He was given
zofran, morphine, oxygen, sublingual nitro followed by nitro
paste, and full dose aspirin as well as heparin for concern for
NSTEMI prior to transfer to ___ ED for further evaluation. On
arrival here, he was pain free but had RUQ tenderness on deep
palpation per the ED. His INR was elevated at 2.2, but he 
reports
no history of coagulation abnormalities or bleeding. 

Vitals in the ER: 
12pm 97.5  92  ___ RA 
6pm 98.7  98  162/82  17  98% RA 

There, the patient received: 
___ 12:07 IV Heparin  ___ Started 1500
units/hr 
___ 12:07 PO Aspirin 81 mg ___  
___ 13:14 IV Heparin  ___ Stopped As 
Directed

A full 10 point review of systems was reviewed and is otherwise
negative in detail. 

 
Past Medical History:
HTN, tobacco abuse, and
obesity 

 
Social History:
___
Family History:
Denies premature CAD or SCD. Father heart
disease in his ___.

 
Physical Exam:
Admission Physical Exam: 
VITALS: ___ Temp: 98.5 PO BP: 162/89 HR: 83 RR: 18 O2
sat: 94% Dyspnea: 0 RASS: 0 Pain Score: ___ 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular rate; normal perfusion, no appreciable JVD
RESP: Symmetric breathing pattern with no stridor. Breathing is
non-labored
GI: Abdomen soft, non-distended, tenderness to deep palpation of
RUQ, no hepatosplenomegaly appreciated.  
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, normal muscle bulk and tone 
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: normal thought content, logical thought process,
appropriate affect
 
Discharge Exam: 
VITALS: Afebrile, mildly hypertensive, normal heart rate,
respiratory rate, and O2 saturation.  (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
ADMISSION LABS: 
___ 12:17PM BLOOD WBC-12.7* RBC-4.02* Hgb-12.7* Hct-36.0* 
MCV-90 MCH-31.6 MCHC-35.3 RDW-12.2 RDWSD-39.8 Plt ___
___ 12:17PM BLOOD ___ PTT-150* ___
___ 12:17PM BLOOD Glucose-172* UreaN-13 Creat-0.8 Na-136 
K-4.6 Cl-99 HCO3-24 AnGap-13
___ 12:17PM BLOOD ALT-27 AST-36 AlkPhos-56 TotBili-0.6
___ 12:17PM BLOOD Albumin-4.4 Cholest-191
___ 12:17PM BLOOD Triglyc-63 HDL-39* CHOL/HD-4.9 
LDLcalc-139*
___ 12:17PM BLOOD %HbA1c-5.3 eAG-105

Discharge Labs: 
___ 06:55AM BLOOD WBC-8.0 RBC-4.49* Hgb-14.2 Hct-40.2 
MCV-90 MCH-31.6 MCHC-35.3 RDW-12.0 RDWSD-39.5 Plt ___
___ 06:55AM BLOOD Glucose-103* UreaN-16 Creat-0.8 Na-140 
K-4.4 Cl-101 HCO3-27 AnGap-12
___ 07:25AM BLOOD ALT-27 AST-24 AlkPhos-64 TotBili-0.7
___ 06:30AM BLOOD cTropnT-<0.01

Imaging: 
TTE:
The left atrium is mildly dilated. Color-flow imaging of the 
interatrial septum raises the suspicion of an atrial septal 
defect (clip 66), but this could not be confirmed on the basis 
of this study. The estimated right atrial pressure is ___ mmHg. 
There is mild symmetric left ventricular hypertrophy with normal 
cavity size and regional/global systolic function (LVEF>55%). 
Right ventricular chamber size and free wall motion are normal. 
The diameters of aorta at the sinus, ascending and arch levels 
are normal. The aortic valve leaflets (3) are mildly thickened 
but aortic stenosis is not present. No aortic regurgitation is 
seen. The mitral valve leaflets are structurally normal. There 
is no mitral valve prolapse. Trivial mitral regurgitation is 
seen. The estimated pulmonary artery systolic pressure is 
normal. There is an anterior space which most likely represents 
a prominent fat pad. 

 IMPRESSION: Mild symmetric left ventricular hypertrophy with 
normal cavity size and regional/global systolic function. 
Possible small, non-physiologically significant secundum ASD.  

STRESS:
INTERPRETATION: This ___ year old man was referred to the lab for 

evaluation of chest discomfort. He exercised for 6 minutes on 
modified 
___ protocol and the test stopped due to exaggerated systolic 
BP 
response. The peak estimated MET capacity is 4.6, which 
represents a 
poor exercise tolerance for his age. No chest, arm, neck or back 

discomfort reported. In the setting of baseline NSSTTWs, at peak 

exercise a 0.5 mm horizontal ST segment depression noticed in 
the 
inferolateral leads, which returned to baseline by one minute 
post-exercise. Rhythm was sinus with rare isolated VPBs, APBs 
and a 5 
beats run of PSVT at 15 seconds post-exercise. Slightl blunted 
HR 
response to the achieved level of exercise. Baseline HTN with 
exaggerated systolic BP response to the low level of exercise 
170/100->242/98. 
IMPRESSION : Non-specific EKG changes in the absence of anginal 
symptoms 
to the achieved workload. BP as noted above. Nuclear report sent 

separately. 

Nuclear Stress:
 1.  No evidence of reversible myocardial ischemia. 2.  Normal 
left 
ventricular cavity size and systolic function. 

RUS-US:
  
1. Echogenic liver consistent with steatosis. Other forms of 
liver disease 
including steatohepatitis, hepatic fibrosis, or cirrhosis cannot 
be excluded 
on the basis of this examination. 
2. Normal gallbladder.  No evidence of cholecystitis. 

 
Brief Hospital Course:
___ yo M w/ h/o of HTN, tobacco abuse, and obesity who presents 
to the ER with vague history of chest/abdominal pressure with 
concern for MI

#Chest pressure - I discussed with the cardiologist who states 
that he should have a exercise pMIBI stress test and Echo. Both 
of these were normal without cause for his symptoms. He was 
evaluated for possible biliary pathology and his RUQUS and LFTs 
were normal as well. DDx also includes indigestion or passed 
gallstone.

#HTN - started losartan given patient reported cough with 
lisinoipril and he was hypertensive to the 170s systolic while 
in the hospital.   

#Hyperlipidemia - started Atorvastatin 20mg 

#Steatosis in liver as incidental finding v. possible cirrhosis. 
He was informed of this finding. He will need to follow-up with 
his PCP and work on weight loss

#Leukocytosis - no evidence of infection, possibly related to 
stress. Normalized without intervention.   

Greater than 30 minutes spent in care coordination and 
counseling on the day of discharge. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Atorvastatin 20 mg PO DAILY 
RX *atorvastatin 20 mg 1 tablet(s) by mouth Daily Disp #*30 
Tablet Refills:*0 
2.  Losartan Potassium 25 mg PO DAILY 
RX *losartan 25 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Non-cardiac pain
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Mr ___,

You were admitted with right sided discomfort. You were 
evaluated for the cause with a ultrasound of your liver as well 
as a cardiac stress test and the cause was not found. It is 
important to take your medications as directed and follow up as 
noted below. 
 
Followup Instructions:
___